US07365225B2
{4-[((cyclohexylcarbonyl){[2-(4-{[(4-phenoxybenzyl)amino]carbonyl}-phenyl)-1,3-thiazol-4-yl]methyl}amino)methyl]phenoxy}acetic acid
The title compound was prepared following the procedure A using 4-phenoxybenzylamine, 4-[4-(chloromethyl)-1,3-thiazol-2-yl]benzoyl chloride, cyclohexanecarbonyl chloride and methyl[4-(aminomethyl)phenoxy]acetate, acetate salt. M+(ESI): 690.2

reactant | 4-phenoxybenzylamine | O(C1=CC=CC=C1)C1=CC=C(CN)C=C1 | C13H13NO
reactant | 4-[4-(chloromethyl)-1,3-thiazol-2-yl]benzoyl chloride | ClCC=1N=C(SC1)C1=CC=C(C(=O)Cl)C=C1 | C11H7Cl2NOS
reactant | cyclohexanecarbonyl chloride | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | methyl[4-(aminomethyl)phenoxy]acetate | COC(COC1=CC=C(C=C1)CN)=O | C10H13NO3
product | {4-[((cyclohexylcarbonyl){[2-(4-{[(4-phenoxybenzyl)amino]carbonyl}-phenyl)-1,3-thiazol-4-yl]methyl}amino)methyl]phenoxy}acetic acid | C1(CCCCC1)C(=O)N(CC=1N=C(SC1)C1=CC=C(C=C1)C(=O)NCC1=CC=C(C=C1)OC1=CC=CC=C1)CC1=CC=C(OCC(=O)O)C=C1 | C40H39N3O6S
